Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Pre-syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old man with HTN and BPH who presents 
with 3 days of exertional lightheadedness and vision changes. 
Patient describes these episodes occurring while walking in the 
setting of marked heat and reduced hydration when he noted a 
lightheaded sensation with gradual darkening of vision on both 
eyes forcing him to sit down. He reports that the episode lasted 
___ min. He reports some chest discomfort (rated ___ during 
these episodes as well as intermittently in the evenings when in 
bed. Also, he has experienced periodic palpitations, also at 
night. Patient saw his PCP yesterday and was given meclizine 
given his symptoms of vertigo with no improvement in symptoms. 
Denies any dysarthria, dysphagia, numbness/tingling/weakness. 
Also denies SOB, nausea, vomiting, cough, fevers, or chills.
In the ED, initial vitals were 97.3 67 119/85 18 98% RA. Labs in 
the ED were notable for TropT <0.01, Na 144, K 3.5, Cr 0.9, Gluc 
109, WBC 7.0 43%N 26%L 22%E, Hct 38.1 and UA WNL. Patient was 
noted to have asymptomatic bradycardia in the ED down to 30's. 
Cardiology was consulted and advised admission to cardiology for 
monitoring on telemetry and further evaluation. Vitals on 
transfer were 98.3, 60, 17, 153/69, 99%, ___
On arrival to the floor, patient appears comfortable and denies 
additional complaints.
REVIEW OF SYSTEMS
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, or orthopnea. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: Hypertension
2. CARDIAC HISTORY: None
3. OTHER PAST MEDICAL HISTORY: Asthma, BPH, ED, cataracts, also 
told has history of TB
 
Social History:
___
Family History:
father died at ___.
mother died at ___ from unknown febrile disorder
6 siblings - 5 of them were tragically murdered. ___ currently 
living and healthy
 
Physical Exam:
ADMISSION:
VS: 97.4 126/55 106 18 96% RA
GENERAL- WDWN male appearing stated age in NAD. Oriented x3. 
Mood, affect appropriate.
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
NECK- Supple with JVP of 9 cm.
CARDIAC- PMI located in ___ intercostal space, midclavicular 
line. regularly irregular, mostly in couplets with notable pause 
inbetween. normal S1, S2. II/VI systolic ejection murmur most 
prominent at right second intercostal space. no rubs or gallops. 
No thrills, lifts.
LUNGS- No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.
ABDOMEN- Soft, NTND. No HSM or tenderness.
EXTREMITIES- No c/c/e.
SKIN- No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES-
Right: Carotid 2+ DP 2+ ___ 2+
Left: Carotid 2+ ___ 2+

DISCHARGE:
VITAL SIGNS: 98.9 104/58 (104-124/42-68) 56 (56-65) 18 97%RA
360/nr nr/500
orthostatics ___:
lying - 115/59 58
sitting - 124/42 58
standing - 106/45 62
GENERAL- WDWN male appearing stated age in NAD. Oriented x3. 
Mood, affect appropriate.
HEENT- NCAT. PERRL, EOMI. MMM.
NECK- Supple with JVP of 9 cm.
CARDIAC- PMI located in ___ intercostal space, midclavicular 
line. regularly irregular, still mostly in couplets with notable 
pauses inbetween. normal S1, S2. II/VI systolic ejection murmur 
most prominent at right second intercostal space. no rubs or 
gallops. No thrills, lifts.
LUNGS- Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.
ABDOMEN- Soft, NTND. No HSM or tenderness.
EXTREMITIES- No c/c/e.
NEURO: MAEE

 
Pertinent Results:
ADMISSION:

___ 02:15PM BLOOD WBC-7.0 RBC-4.30* Hgb-12.9* Hct-38.1* 
MCV-89 MCH-30.0 MCHC-33.9 RDW-13.5 Plt ___
___ 02:15PM BLOOD Neuts-43.6* ___ Monos-7.0 
Eos-22.1* Baso-1.2
___ 02:15PM BLOOD Glucose-109* UreaN-25* Creat-0.9 Na-144 
K-3.5 Cl-109* HCO3-28 AnGap-11
___ 02:15PM BLOOD Calcium-8.5 Phos-3.4 Mg-2.0

FURTHER WORK-UP:

___ 02:15PM BLOOD CK(CPK)-153
___ 02:00AM BLOOD CK(CPK)-122
___ 05:40AM BLOOD CK(CPK)-114
___ 02:15PM BLOOD CK-MB-2
___ 02:15PM BLOOD cTropnT-<0.01
___ 02:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:40AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:40AM BLOOD TSH-2.5
___ 05:40AM BLOOD Free T4-1.1

DISCHARGE:

___ 06:15AM BLOOD WBC-7.2 RBC-4.59* Hgb-13.7* Hct-41.3 
MCV-90 MCH-29.8 MCHC-33.1 RDW-13.6 Plt ___
___ 06:15AM BLOOD Glucose-91 UreaN-17 Creat-1.0 Na-143 
K-4.0 Cl-106 HCO3-32 AnGap-9
___ 06:15AM BLOOD Calcium-9.2 Phos-3.2 Mg-1.9

___ EKG:
Artifact is present. Probable sinus rhythm with atrial bigeminy. 
Compared to
the previous tracing of ___ atrial bigeminy is new.
TRACING #1
 
Read ___.
 ___
___

___ EKG:
Artifact is present. Sinus bradycardia. Compared to the previous 
tracing of
the same day atrial bigeminy is no longer present.
TRACING #2
 
Read ___.
 ___
___

___ STRESS EKG:
TOTAL EXERCISE TIME:  8% MAX HRT RATE ACHIEVED:  99
SYMPTOMS:NONE 
 
INTERPRETATION: This is a ___ year old man with a history of
hypertension, atypical chest pain and recently diagnosed sinus
bradycardia who was referred for evaluation of chronotropic and 
blood
pressure response to exercise. The patient exercised for 8 
minutes of a
___ protocol ___ METS), which represents good exercise 
capacity for
his age. No chest, back, neck or arm discomforts were reported 
during
the procedure. No lightheadedness or pre-syncope during exercise 
or
recovery. The rhythm was sinus with frequent, isolated APBs and
frequent, isolated VPBs, with periods of ventricular trigeminy 
and rare
ventricular couplets. No ischemic ST segment changes. The heart 
rate and
blood pressure response to exercise was appropriate.
 
IMPRESSION: Good exercise capacity. No anginal or ischemic ST 
changes.
Appropriate hemodynamic response to exercise. No lightheadedness 
or
pre-syncopal symptoms during test.
SIGNED: ___

 
Brief Hospital Course:
hydrochlorothiazide stopped due to possible contribution to 
orthostatics

terazosin replaced by tamsulosin for same reason.

monitor BP since off HCTZ

___ y/o M with history of HTN presents with pre-syncopal symptoms 
on hot days in the setting of intermittent chest discomfort and 
palpitations, noted to have couplets/pauses with bradycardia to 
the ___.

ACUTE ISSUES:

# PRE-SYNCOPE: In the setting of exertion on a hot day with 
positive orthostatic findings and chronic HCTZ, the most likely 
etiology of his pre-syncopal episode was mild dehydration 
superimposed upon bradycardia caused by atrial bigeminy with 
non-conducted atrial premature complexes,documented in the ED, 
leading to a halving of his heart rate. He never demonstrated 
heart block.  He underwent a stress ekg to evaluate his 
functional capacity which revealed normal hemodynamic responses 
and normal exercise tolerance. His HCTZ was discontinued pending 
further evaluation per Dr. ___. Given these reassuring 
findings and the likelihood of dehydration contributing to his 
presenting symptoms, he was not felt to need a pacemaker at this 
time. He will follow-up once with Dr. ___ further 
monitoring of his bradycardia. 

# H/o chest discomfort: Given his complaint of chest discomfort, 
he was worked up for ischemic disease, however the fact that it 
was not reported to occur with exertion but only at rest is 
unusual. Two sets of cardiac enzymes were negative. Stress EKG 
also did not reveal any inducible ischemia. His discomfort 
therefore was not ischemic in origin. Further evaluation 
including possible GI source may be considered per Dr. ___.

CHRONIC ISSUES:

# HTN: He was not hypertensive during this hospitalization and 
in fact had positive orthostatic signs. As mentioned above, his 
HCTZ was discontinued. Further management per his PCP.

# ASTHMA: No acute issues.

# BPH: While there were no acute issues, his terazosin was 
changed to tamsulosin given the potential for greater 
contribution to orthostatic hypotension of the former.

TRANSITIONAL ISSUES:
# BRADYCARDIA: Will follow-up with Dr. ___ further 
monitoring of his bradycardia.

# HTN: ___ consider CCB or ACE-I instead of diuretic given his 
pre-syncope and orthostatic signs. His BP should be checked soon 
since he is now off of his HCTZ. Additionally as above, his 
terazosin was switched to tamsulosin in an effort to reduce 
orthostatic hypotension.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientwebOMR.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
Please hold for SBP < 100 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID PRN 
wheezing or difficulty breathing 
3. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing or difficulty 
breathing 
4. Terazosin 10 mg PO HS 
Please hold for SBP < 100 
5. Finasteride 5 mg PO DAILY 
6. Cialis *NF* (tadalafil) 20 mg Oral prn erectile dysfunction 
7. Meclizine 25 mg PO TID PRN vertigo 
8. Acular *NF* (ketorolac) 0.5 % OS qid 
9. morinda citrifolia fruit *NF* unknown  Oral unknown 

 
Discharge Medications:
1. Acular *NF* (ketorolac) 0.5 % OS qid 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing or difficulty 
breathing 
3. Finasteride 5 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID PRN 
wheezing or difficulty breathing 
5. Cialis *NF* (tadalafil) 20 mg Oral prn erectile dysfunction 
6. Meclizine 25 mg PO TID PRN vertigo 
7. Tamsulosin 0.4 mg PO HS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth once a day Disp #*30 
Tablet Refills:*1
8. ___ citrifolia fruit *NF* 1 unit ORAL Frequency is 
Unknown 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pre-syncope due to orthostatics
Asymptomatic intermittent bradycardia due to non-conducted 
premature atrial contractions

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you during your 
hospitalization. You were admitted to the hospital on ___ after 
developing symptoms of lightheadedness with darkening of your 
vision while walking. You did not lose consciousness during 
these episodes. During your hospital stay, you underwent several 
tests to help determine the cause of your symptoms. These tests 
helped to conclude that you did not experience a heart attack 
and that you do not have significant blockages in your heart, 
which is all good news.

You were found to have a heart rate that is periodically slower 
than normal. However after the tests that were performed, we 
concluded that your symptoms are not due to this slower heart 
rate.

Instead, your symptoms are felt to be due to dehydration, 
especially since they occur on hot days and since your blood 
pressure decreases to some degree when you stand up. Therefore, 
we are stopping one of your medications (hydrochlorothiazide), 
since it can take too much fluid from your body.

You will no longer take the hydrochlorothiazide medication, 
since it may have contributed to your symptoms. Also, your 
terazosin has been replaced by tamsulosin for BPH, since 
tamsulosin is less likely to cause lightheadedness when 
standing.

Please take the medications below as prescribed, and please also 
follow-up with your doctor for an appointment in the next 2 
weeks.
 
Followup Instructions:
___